US05264441
To a stirred solution of (2-cyclohexyl-5,5-dimethyl-1,3-dioxan-2-yl)methylamine (2.27 g 0.100 mole) in 40 ml of n-hexane/ethylacetate (5:1) is added dropwise at room temperature 2,6-bis(1-methylethyl)phenylisocyanate (1.94 g 0.105 mole). The reaction mixture is stirred at room temperature for two hours. Precipitated solid is filtered, washed with n-pentane/ether (1:1) and dried, yielding 3.85 g of N-[2,6-bis(1-methylethyl)phenyl]-N'-(2-cyclohexyl-5,5-dimethyl-1,3-dioxan-2-yl)methylurea.

reactant | (2-cyclohexyl-5,5-dimethyl-1,3-dioxan-2-yl)methylamine | 0.100 mole, 2.27 g | C1(CCCCC1)C1(OCC(CO1)(C)C)CN | C13H25NO2
reactant | 2,6-bis(1-methylethyl)phenylisocyanate | 0.105 mole, 1.94 g | CC(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
solvent | n-hexane ethylacetate | 40 ml | CCCCCC.C(C)OC(C)=O
product | N-[2,6-bis(1-methylethyl)phenyl]-N'-(2-cyclohexyl-5,5-dimethyl-1,3-dioxan-2-yl)methylurea | 3.85 g | CC(C)C1=C(C(=CC=C1)C(C)C)NC(=O)NCC1(OCC(CO1)(C)C)C1CCCCC1 | C26H42N2O3
